US09163033B2
(±)-(4S,5R,1S) 4-(2,2-dimethylethyl)-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one (5c):
(±)-(4S,5R,1S) 4-chloro-8-oxo-2-(phenyl methoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one (endo-5e) and (±)-(4R,5R,1S) 4-chloro-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one (exo-5e):Prepared in 73% yield (72 mg, 0.31 mmol) from the reaction of 2,2-dichloro-N-(phenylmethoxy)acetamide (100.2 mg, 0.43 mmol) with furan via general procedure B. Rf=0.50 (3:1, hexanes:EtOAc) 1H NMR (400 MHz, CDCl3) δ 7.51-7.30 (m, 3H), 6.54 (dd, J=6.0, 1.1 Hz, 1H), 6.51 (dd, J=6.0, 1.7 Hz, 1H), 5.27 (d, J=1.1 Hz, 1H), 5.09 (dd, J=5.1, 1.6 Hz, 1H), 5.00 (d, J=11.0 Hz, 1H), 4.89 (d, J=11.0 Hz, 1H), and 4.76 (d, J=5.2 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 165.9, 136.8, 135.3, 133.1, 129.8, 129.2, 128.2, 92.1, 82.1, 78.3, and 56.9; IR (film) 3032, 2950, 2922, 2852, 1712 (s), 1455, 1369, 1213, 1189, 1059, 1023 cm-1. HR-ESIMS calculated for C13H12ClNNaO3 (M+Na)+288.0398, found 288.0391. exo-diastereoisomer: Rf=0.3 (3:1, hexanes:EtOAc); 1H NMR (400 MHz, CDCl3): δ 7.48-7.35 (m, 2H), 6.68 (d, J=5.9 Hz, 1H), 6.34 (dd, J=6.0, 1.1 Hz, 1H), 5.28 (s, 1H), 5.02 (d, J=10.9 Hz, 2H), 4.98 (s, 1H), 4.92 (d, J=10.9 Hz, 2H), and 4.09 (s, 1H); 13C NMR (101 MHz, CDCl3) δ 165.5, 138.2, 135.0, 131.4, 129.9, 129.2, 128.8, 91.3, 84.2, 78.4, and 56.1; IR (neat) 3067, 3034, 2946, 2885, 1694, 1046 cm-1; HRMS calculated for C13H12ClNNaO3 (M+Na)+288.0398, observed 288.0399.

reactant | (±)-(4S,5R,1S) 4-chloro-8-oxo-2-(phenyl methoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one | Cl[C@@H]1C(N([C@H]2C=C[C@@H]1C2=O)OCC2=CC=CC=C2)=O | C14H12ClNO3
reactant | (±)-(4R,5R,1S) 4-chloro-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one | Cl[C@H]1C(N([C@H]2C=C[C@@H]1C2=O)OCC2=CC=CC=C2)=O | C14H12ClNO3
reactant | 2,2-dichloro-N-(phenylmethoxy)acetamide | 0.43 mmol, 100.2 mg | ClC(C(=O)NOCC1=CC=CC=C1)Cl | C9H9Cl2NO2
reactant | furan | O1C=CC=C1 | C4H4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-(4S,5R,1S) 4-(2,2-dimethylethyl)-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one | CC(C[C@@H]1C(N([C@H]2C=C[C@H]1C2=O)OCC2=CC=CC=C2)=O)C | C18H21NO3
